US08383821B2
4-((3-Bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2,4-difluorophenyl)-1-methylpiperidine.
tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2,4-difluorophenyl)piperidine-1-carboxylate (200 mg, 0.35 mmol) was dissolved in methanol (5 mL). Hydrochloric acid (gas) was bubbled through for 20 seconds, then removed. The reaction was allowed to stir for 20 min and the solvent evaporated. The resulting solid was dissolved in dichloromethane (2 mL) and treated with formaldehyde (37 wt. % solution in water, 1.5 mL) at 0° C. After 20 min the reaction was treated with sodium triacetoxyborohydride (297 mg, 1.4 mmol). The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated to afford 142 mg (85%). Mass Spec: 478.07 (MH)+. LC tr=1.885 min (Phenomenex-Luna 4.6×50 mm S10, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA Gradient Time=2 min, Flow rate=4 mL/min).

reactant | tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2,4-difluorophenyl)piperidine-1-carboxylate | 0.35 mmol, 200 mg | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=C(C=C(C=C2)F)F)C=C(C1)C(F)(F)F | C25H27BrF5NO3
reactant | sodium triacetoxyborohydride | 1.4 mmol, 297 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-((3-Bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2,4-difluorophenyl)-1-methylpiperidine | BrC=1C=C(COCC2(CCN(CC2)C)C2=C(C=C(C=C2)F)F)C=C(C1)C(F)(F)F | C21H21BrF5NO
